US05455273
k) trans-N- (4-chlorobenzoyl) -N-methyl-4- (4-hydroxymethylphenyl)cyclohexylamine
from trans-4-(4-hydroxymethylphenyl)-N-methylcyclohexylamine and 4-chlorobenzoylchloride. Melting point: 211°-213° C.

reactant | trans-4-(4-hydroxymethylphenyl)-N-methylcyclohexylamine | OCC1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)NC | C14H21NO
reactant | 4-chlorobenzoylchloride | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
product | trans-N- (4-chlorobenzoyl) -N-methyl-4- (4-hydroxymethylphenyl)cyclohexylamine | ClC1=CC=C(C(=O)N(C)[C@@H]2CC[C@H](CC2)C2=CC=C(C=C2)CO)C=C1 | C21H24ClNO2
